US09388166B2
A solution of [2-(4-iodo-2-methoxy-pyridin-3-yl)-1H-indol-6-yl]-carbamic acid tert-butyl ester (90 mg, 0.19 mmol) in CH2Cl2 (5 mL) was added 2,2,2-trifluoroacetic acid (0.5 mL) at 25° C. The solution was heated to reflux for 3 h. Concentrate the solution in vacuo to afford crude 2-(4-iodo-2-methoxy-pyridin-3-yl)-1H-indol-6-ylamine (65 mg, 92%) as light yellow oil. The crude product was used directly for next step. MH+ 365.9.

reactant | [2-(4-iodo-2-methoxy-pyridin-3-yl)-1H-indol-6-yl]-carbamic acid tert-butyl ester | 0.19 mmol, 90 mg | C(C)(C)(C)OC(NC1=CC=C2C=C(NC2=C1)C=1C(=NC=CC1I)OC)=O | C19H20IN3O3
reactant | 2,2,2-trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-iodo-2-methoxy-pyridin-3-yl)-1H-indol-6-ylamine | 65 mg, 92% | IC1=C(C(=NC=C1)OC)C=1NC2=CC(=CC=C2C1)N | C14H12IN3O
